US07700595B2
[3-(8-Chloro-3-phenylcinnolin-4-yl)phenyl]{[4-(trifluoromethyl)-1-benzothien-2-yl]methyl}amine
The title compound was prepared from 3-(8-chloro-3-phenyl-cinnolin-4-yl)-phenylamine and 4-trifluoromethyl-benzo[b]thiophene-2-carbaldehyde according the procedure of Example 5 Step 5. MS (ESI) m/z 546.

reactant | 3-(8-chloro-3-phenyl-cinnolin-4-yl)-phenylamine | ClC=1C=CC=C2C(=C(N=NC12)C1=CC=CC=C1)C=1C=C(C=CC1)N | C20H14ClN3
reactant | 4-trifluoromethyl-benzo[b]thiophene-2-carbaldehyde | FC(C1=CC=CC=2SC(=CC21)C=O)(F)F | C10H5F3OS
product | [3-(8-Chloro-3-phenylcinnolin-4-yl)phenyl]{[4-(trifluoromethyl)-1-benzothien-2-yl]methyl}amine | ClC=1C=CC=C2C(=C(N=NC12)C1=CC=CC=C1)C=1C=C(C=CC1)NCC=1SC2=C(C1)C(=CC=C2)C(F)(F)F | C30H19ClF3N3S
